US07199147B2
Potassium carbonate (1.16 g, 8.39 mmol) was added to a solution of 5-fluoro-2-nitrotoluene (1.0 g, 6.45 mmol) and methyl salicylate (1.18 g, 7.74 mmol) in N,N-dimethylformamide (8 ml), and the resulting mixture was stirred at 140° C. for 1 hour. After the reaction, the reaction solution was cooled to 0° C. and a saturated aqueous sodium chloride solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The organic layer dried was concentrated and then purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=10/1) to obtain methyl 2-(3-methyl-4-nitrophenoxy)benzoate (1.88 g, 85%).

reactant | Potassium carbonate | 8.39 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-nitrotoluene | 6.45 mmol, 1.0 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | methyl salicylate | 7.74 mmol, 1.18 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | methyl 2-(3-methyl-4-nitrophenoxy)benzoate | 1.88 g, 85% | CC=1C=C(OC2=C(C(=O)OC)C=CC=C2)C=CC1[N+](=O)[O-] | C15H13NO5
